### PR TITLE
feat(PBV): Refactor tactic 

### PR DESCRIPTION
**Pull request by luigirinaldi**
This PR changes the way the goal is transformed from a parametric width one into a bounded concrete width goal.
- Before we were traversing the local context to discover the widths and transform them into masks, then traversing the context again to find the bitvectors and transform those into concrete width ones. 
- Now, we instead recursively traverse the goal AST (in `visitExpRec`) and keeping track of the widths that are found and the leaf `BitVec` variables that need to be redefined in terms on a concrete width. Then, the collected widths are transformed into masks and the `BitVec`s redefined in terms of the bound width.

Further, the width expressions are now 'reified' into a term (`Tm`) AST in order to be able to reason about them structurally. At the moment, the only component is a width 'atom' which refers to an expression that is either a `Nat` in a local context or the `w` in a `BitVec w` definition. The atoms are collected from the context and used to construct the terms while recursing over the goal.

Minor changes:
- The `IsMask` definition is removed since it only added extra steps in the tactic metaprogramming.
- Redefine `eq_iff` and other theorems in `Push.lean` to make the width bound variable `o` explicit, as it has to be bound in order for the simp based rewriting to succeed.

### CODE REVIEW

File: Veir/Meta/PBVDecide.lean [hunk 1]
```diff
@@ -1,69 +1,198 @@
...
+| widthAtom (id : Nat) : Tm .width
+
+/--
+Function to Reify an `Expr` into a `Tm`. This function constructs the tree holding
+the width term. The environment holds the 'atom' `Expr`s which are the building
+blocks of the terms.
+-/
+meta partial def Tm.reifyWidth (env : TmWidthEnv) (e : Expr) : MetaM (Option (Tm .width)) := do
+  if let some id := env.width2expr.idxOf? e then
+    -- An atom is an expression is present in the Env
```
Comment (tobiasgrosser) [inline Veir/Meta/PBVDecide.lean]:
```suggestion
    -- An atom is an expression that is present in the Env.
```

File: Veir/Meta/PBVDecide.lean [hunk 2]
```diff
@@ -1,69 +1,198 @@
...
+  this.infos[wTm.toName]?
+
+/--
+Get WidthInfo from an Expr.
+-/
+meta def WidthInfos.getFromExpr? (this: WidthInfos) (wExpr : Expr)
+    : MetaM (Option WidthInfo) := do
+  -- Reduce the expression (allows for cases such as (w + 0) to be reduced to w)
+  let reducedExpr ← whnf wExpr
+  -- Reify the expr using the env and then look for it in the Hashmap
```
Comment (tobiasgrosser) [inline Veir/Meta/PBVDecide.lean]:
```suggestion
  -- Reify the expr using the env and then look for it in the Hashmap.
```

File: Veir/Meta/PBVDecide.lean [hunk 3]
```diff
@@ -170,28 +360,35 @@ meta def applySimp (g : MVarId) (simp : SimpTheoremsArray) : MetaM MVarId := g.w
...
+           <| ← addWidthInfosSimpLemmas g widthInfos #[]
   -- Run simp
-  let g ← applySimp g <| ← addPushTheorems g widthInfo
-                      <| ← addOtherTheorems g
-                      <| ← addBvInfos g bvInfos
-                      <| ← addWidthHyp g widthInfo #[]
-
-  return [g, widthInfo.hypWidthLeBound]
+  let g ← applySimp g thms
+  -- Return modified goal and subgoals
```
Comment (tobiasgrosser) [inline Veir/Meta/PBVDecide.lean]:
```suggestion
  -- Return modified goal and subgoals.
```

File: UnitTest/BoundedBitblasting/BoundedBitblasting.lean [hunk 4]
```diff
@@ -1,19 +1,23 @@
...
+/-- Commutativity of addition -/
 example (w : Nat) (x y : BitVec w) (hw : w ≤ 4) :
   x + y = y + x := by
   pbv_decide 4
   · bv_decide
   · grind
 
-example (w : Nat) (x y z : BitVec w) (hw : w ≤ 4) :
-  x + y + z = y + x + z := by
+/-- Commutativity of addition with definitionally-not-syntactically equal widths-/
```
Comment (tobiasgrosser) [inline UnitTest/BoundedBitblasting/BoundedBitblasting.lean]:
```suggestion
/-- Commutativity of addition with definitionally-not-syntactically equal widths -/
```

File: Veir/Data/PBV/Push.lean [hunk 5]
```diff
@@ -14,9 +14,9 @@ namespace Veir.Data.PBV
 
 public section
 
-/-! ## Introducing `setWidth o` at the root -/
 
-theorem eq_iff {w o : Nat} (h : w ≤ o) :
+/-- Introducing `setWidth o` at the root -/
+theorem eq_iff (o : Nat) {w : Nat} (h : w ≤ o) :
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Push.lean]: Can we define the implicit argument `w` before the explicit argument `o`?

File: Veir/Data/PBV/Push.lean [hunk 6]
```diff
@@ -67,7 +67,7 @@ theorem setWidth_signExtend_eq_and_maskOfWidth {t v o : Nat} (hvo : v ≤ o) :
 
 /-- `a.msb` can be implemented by masking the sign bit,
 which are definitions the bitblaster can see. -/
-theorem msb_eq_and_signBitOfMask_maskOfWidth_ne_zero {w o : Nat} (h : w ≤ o) :
+theorem msb_eq_and_signBitOfMask_maskOfWidth_ne_zero (o : Nat) {w : Nat} (h : w ≤ o) :
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Push.lean]: Can we define the implicit argument `w` before the explicit argument `o`?

File: Veir/Meta/PBVDecide.lean [hunk 7]
```diff
@@ -1,69 +1,198 @@
...
+
+/--
+Type to capture the expressions this tactic will handle.
+Only capture `width` at the moment.
+-/
+inductive TmKind
+| width
+
+/--
+Inductive data structure to express the Terms that this tactic reasons about.
```
Comment (tobiasgrosser) [inline Veir/Meta/PBVDecide.lean]:
```suggestion
Inductive data structure to express the terms that this tactic reasons about.
```

File: Veir/Meta/PBVDecide.lean [hunk 8]
```diff
@@ -1,69 +1,198 @@
...
+-/
+meta partial def Tm.reifyWidth (env : TmWidthEnv) (e : Expr) : MetaM (Option (Tm .width)) := do
+  if let some id := env.width2expr.idxOf? e then
+    -- An atom is an expression is present in the Env
+    pure <| some (.widthAtom id)
+  else
+    pure none
+
+/--
+Convert a `Tm` into an `Expr` provided and environment.
```
Comment (tobiasgrosser) [inline Veir/Meta/PBVDecide.lean]: Grammar?

File: Veir/Meta/PBVDecide.lean [hunk 9]
```diff
@@ -1,69 +1,198 @@
...
+    return (g, widthTm, this.push widthTm)
+
 /--
 Information about the width variable and associated hypotheses.
 -/
-meta structure WidthInfo where
-  /-- The LocalDecl corresponding to this width variable. -/
-  widthNatLocalDecl : LocalDecl
+structure WidthInfo where
+  /-- The Name correspodning to this width. -/
```
Comment (tobiasgrosser) [inline Veir/Meta/PBVDecide.lean]:
```suggestion
  /-- The Name corresponding to this width. -/
```

File: Veir/Meta/PBVDecide.lean [hunk 10]
```diff
@@ -1,69 +1,198 @@
...
-   bmcBound : Nat
+meta def WidthInfos.getFromTm? (this : WidthInfos) (wTm : Tm .width) : Option WidthInfo :=
+  this.infos[wTm.toName]?
+
+/--
+Get WidthInfo from an Expr.
+-/
+meta def WidthInfos.getFromExpr? (this: WidthInfos) (wExpr : Expr)
+    : MetaM (Option WidthInfo) := do
+  -- Reduce the expression (allows for cases such as (w + 0) to be reduced to w)
```
Comment (tobiasgrosser) [inline Veir/Meta/PBVDecide.lean]:
```suggestion
  -- Reduce the expression (allows for cases such as (w + 0) to be reduced to w).
```

File: Veir/Meta/PBVDecide.lean [hunk 11]
```diff
@@ -150,16 +341,15 @@ meta def addBvInfos (g : MVarId) (bvInfos : BitVecInfos)
   return simp
 
 /--
-Add width mask hypothesis
+Add theorems bounding each of width to the provided bound to the simp set.
```
Comment (tobiasgrosser) [inline Veir/Meta/PBVDecide.lean]:
```suggestion
Add theorems bounding each width to the provided bound to the simp set.
```

**Review by tobiasgrosser — APPROVED** [review]
Nice. Mostly typo comments left. Feel free to merge after.

File: Veir/Data/PBV/Push.lean (hunk 5 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Push.lean]: no, this needs to be first since `o` is bound to the concrete width during the tactic elaboration.
